* source MAKINELESMEKISTIYORUM
X_M1         N14684 N14929 N14431 M_UN0001 M_UN0002 BLDCMTR_WYE 
+ PARAMS: J=146000_g*cm*sec*sec B=0.559_g*cm*sec/rad F=3580_g*cm
+  D=11675.100_g*cm A=26 Cl=0.000000543954H Cr=0.0201498 Cc=35.5uF Cm=-0.4
+  Cb=5.875_Volt*sec/rev Ct=9526660_g*cm/amp
V_V4         N14431 0 DC 0 AC 0
+SIN 0 48 60 0 0 0
V_V5         N14929 0 DC 0 AC 0
+SIN 0 48 60 0 0 120
V_V6         N14684 0 DC 0 AC 0
+SIN 0 48 60 0 0 240
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
